US07169775B2
N-BuLi (12.1 mL, 19.3 mmol, 1.6M in hexane) at −78° C. is added to a solution of 4-(1-butyl-4,5-dichloro-1H-imidazol-2-yl)-morpholine (3.48 g, 12.5 mmol) in anhydrous THF (50 mL) over a 30 minute period. After stirring for 2 hours at −78° C., anhydrous DMF (3 mL) is added at −78° C. Then the reaction mixture is allowed to warm to room temperature over a 2 hour period. The reaction is then quenched with water. The reaction mixture is extracted with ethyl acetate and dried over MgSO4. The extract is evaporated in vacuo to dryness and purified by flash column chromatography on silica gel using a mixture of hexane-ethyl acetate (4:1 to 3:1) as eluent to give 1-butyl-4-chloro-2-morpholin-4-yl-3H-imidazole-5-carbaldehyde as a colorless oil. 1HNMR (CDCl3) δ 9.59 (1H, s), 4.06 (2H, t, J=7.1 Hz), 3.78 (4H, t, J=4.6 Hz), 3.15 (4H, t, J=4.6 Hz), 1.60–1.70 (2H, m), 1.19–1.30 (2H, m), 0.90 (3H, t, J=7.3 Hz).

reactant | 4-(1-butyl-4,5-dichloro-1H-imidazol-2-yl)-morpholine | 12.5 mmol, 3.48 g | C(CCC)N1C(=NC(=C1Cl)Cl)N1CCOCC1 | C11H17Cl2N3O
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-butyl-4-chloro-2-morpholin-4-yl-3H-imidazole-5-carbaldehyde | C(CCC)N1C(NC(=C1C=O)Cl)N1CCOCC1 | C12H20ClN3O2
